US07737141B2
Synthesis of (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one
Platinum oxide (20.1 mg) was added to a methanol solution (6 mL) of (4R,9aS)-4-(3,4,5-trifluorophenyl)-3,4,7,9a-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-6-one (250 mg). The resulting reaction solution was stirred at room temperature for 2 hr in hydrogen atmosphere and then filtered through Celite. The filtrate was concentrated under reduced pressure to give 252 mg of the title compound. The physical property values of this compound were as follows:

reactant | methanol | 6 mL | CO | CH4O
reactant | (4R,9aS)-4-(3,4,5-trifluorophenyl)-3,4,7,9a-tetrahydro-1H-pyrido[2,1-c][1,4]oxazin-6-one | 250 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2[C@H](COC1)C=CCC2=O | C14H12F3NO2
solvent | hydrogen | [H][H] | H2
catalyst | Platinum oxide | 20.1 mg | [Pt]=O
product | (4R,9aS)-4-(3,4,5-trifluorophenyl)hexahydropyrido[2,1-c][1,4]oxazin-6-one | 252 mg | FC=1C=C(C=C(C1F)F)[C@H]1N2[C@H](COC1)CCCC2=O | C14H14F3NO2
